US08530475B2
STEP C: Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene
Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione (0.8 g, 2.74 mmol) was dissolved in a solution of Dibal (THF, 1 M, 28 mL). The reaction was carried out in a large scale CEM microwave reaction vessel. The reaction mixture was heated to 120° C. for 0.5 h and then allowed to cool to room temperature. A one-liter Erlenmeyer flask was charged with diethyl ether (400 mL) and the reaction mixture was poured into the diethyl ether. A water solution of saturated Rochelle salts was added dropwise until gas stopped evolving and then water saturated with Rochelle salts (approximately 200 mL) was poured into the reaction mixture. The resulting mixture was stirred at room temperature until both phases were clear. The reaction mixture then was poured into a separatory funnel and the aqueous layer was discarded. The diethyl ether was dried with anhydrous magnesium sulfate and the solvent was removed using reduced pressure to yield a clear colorless oil.

reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione | 2.74 mmol, 0.8 g | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1=O)NC2=O | C18H16N2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
product | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
